US06294558B1
N-[3-Fluoro-4-(methylsulfonyl)phenyl]-4-bromo-3-methylbenzenecarboximidamide. (step 1)
The subtitle compound was prepared according to the procedure of Example 153 (step 1) using 4-bromo-3-methylbenzonitrile, instead of 4-bromobenzonitrile. 2-(4-Bromo-3-methylphenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-hydroxy-4-trifluoromethyl-4,5-dihydro-1H-imidazole. (step 2)

reactant | 4-bromo-3-methylbenzonitrile | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 2-(4-Bromo-3-methylphenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-hydroxy-4-trifluoromethyl-4,5-dihydro-1H-imidazole | BrC1=C(C=C(C=C1)C=1N(CC(N1)(C(F)(F)F)O)C1=CC(=C(C=C1)S(=O)(=O)C)F)C | C18H15BrF4N2O3S
product | N-[3-Fluoro-4-(methylsulfonyl)phenyl]-4-bromo-3-methylbenzenecarboximidamide | FC=1C=C(C=CC1S(=O)(=O)C)NC(=N)C1=CC(=C(C=C1)Br)C | C15H14BrFN2O2S
